US07271274B2
To a solution of (2-ethoxy-5-methoxycarbonylmethyl-[1,3]dioxolan-4-yl)-acetic acid methyl ester (Ex-14B, 11.0 g, 42 mmol) in tetrahydrofuran (75 mL) at 0° C. was added a solution of LAH in tetrahydrofuran (1 M, 63 mL, 63 mmol) dropwise over a 1 h period. The reaction mixture was allowed to warm to rt and stir for 2 h at which time the solution was then cooled back down to 0° C. and carefully quenched with sodium sulfate decahydrate. The mixture was concentrated under reduced pressure and the residue was diluted with equal portions of a saturated Rochelle salt solution and ethyl acetate (approx. 150 mL each) and the slurry was vigorously stirred overnight. The layers were then separated and the aqueous layer was extracted with ethyl acetate (4×100 mL), the organic extracts dried over sodium sulfate, filtered and concentrated under reduced pressure. Drying in vacuo gave 2-[2-ethoxy-5-(2-hydroxy-ethyl)-[1,3]dioxolan-4-yl]-ethanol (7.6 g, 88%) as a colored oil. This material was used without further purification. 1H-NMR (300 MHz, CDCl3) δ5.82(s, 1H), 4.11–4.17 (m, 1H,), 3.92–3.97 (m, 1H), 3.80–3.86 (m, 4H), 3.61 (q, 2H, J=7.0 Hz), 2.30 (brs, 1H), 2.22 (brs, 1H), 1.76–1.94 (m, 4H), 1.23 (t, 3H, J=7.0 Hz).

reactant | (2-ethoxy-5-methoxycarbonylmethyl-[1,3]dioxolan-4-yl)-acetic acid methyl ester | 42 mmol, 11.0 g | COC(CC1OC(OC1CC(=O)OC)OCC)=O | C11H18O7
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 63 mmol, 1 M, 63 mL | O1CCCC1 | C4H8O
product | 2-[2-ethoxy-5-(2-hydroxy-ethyl)-[1,3]dioxolan-4-yl]-ethanol | 7.6 g, 88% | C(C)OC1OC(C(O1)CCO)CCO | C9H18O5
